US04968800
(3R)-3-Aminopyrrolidine (400 mg) prepared in Reference Example 1-(3) is dissolved in water (200 ml) and thereto is added platinum (II) potassium chloride (2.0 g), and the mixture is stirred at room temperature for 20 hours. The precipitated solid is removed by filtration, and the filtrate is concentrated under reduced pressure. To the residue is added water (3 ml), and the resulting crystals are separated by filtration and washed with water and acetone to give cis-dichloro-(3R)-3-aminopyrrolidine platinum (II) (1.28 g) as pale yellow crystal. The physical properties of the cis-dichloro-(3R)-3-aminopyrrolidine platinum (II) thus obtained are identical with those of the cis-dichloro-(3R)-3-aminopyrrolidine platinum (II) as obtained in the above (1-A).

reactant | (3R)-3-Aminopyrrolidine | 400 mg | N[C@H]1CNCC1 | C4H10N2
reactant | platinum (II) potassium chloride | 2.0 g | [Cl-].[K+].[Pt+2].[Cl-].[Cl-]
solvent | water | 200 ml | O | H2O
product | cis-dichloro-(3R)-3-aminopyrrolidine platinum (II) | 1.28 g | [Pt+2].Cl[C@H]1N(CC[C@H]1N)Cl | InChI=1S/C4H8Cl2N2.Pt/c5-4-3(7)1-2-8(4)6;/h3-4H,1-2,7H2;/q;+2/t3-,4+;/m1./s1
